US08198311B2
Methyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)pentanoate was heated to 100° C. overnight in a mixture of 2 M NaOH/MeOH/DMSO (1:1:1). The next day, the reaction was cooled, acidified to pH 5 with HCl and extracted 2× EtOAc. The organic layers were washed with water×2, dried over MgSO4, filtered, concentrated in vacuo, and purified by HPLC to give 140 mg (91% yield) of acid 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl) pentanoic acid. MS found: (M+H)+=403.

reactant | Methyl 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)pentanoate | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)CCC)C1=CC=CC=C1 | C26H25FN2O2
reactant | HCl | Cl | ClH
solvent | NaOH MeOH DMSO | 2 M | [OH-].[Na+].CO.CS(=O)C
product | 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl) pentanoic acid | 140 mg, 91% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)O)CCC)C1=CC=CC=C1 | C25H23FN2O2
